US07732596B2
To a suspension of sodium hydride (55%, 1.11 g) in dimethyl sulfoxide (20 mL) was added methyl thioglycolate (1.53 mL) at room temperature, and the mixture was stirred for 15 minutes. A solution of 2-bromo-6-fluorobenzaldehyde (3.43 g) in dimethyl sulfoxide (4 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 5 minutes. The reaction mixture was poured into water with ice and precipitated crystalline solid was collected by filtration, washed with water and dried under reduced pressure to give 2-methoxycarbonyl-4-bromobenzo-[b]thiophene (1.52 g). This material was suspended in a mixed solvent of methanol (20 mL) and water (10 mL) and sodium hydroxide (0.91 g) was added to the suspension. The mixture was stirred for at 50° C. for 5 hours. The reaction mixture was cooled with ice bath, and the reaction mixture was acidified by adding 2 mol/L hydrochloric acid. The precipitated crystalline solid was collected by filtration, washed with water and dried under reduced pressure to give 2-carboxybenzo[b]thiophene (1.27 g). To this material were added copper powder (0.42 g) and quinoline (10 mL), and the mixture was stirred at 190° C. for 1 hour. After the reaction mixture was cooled to room temperature, 2 mol/L hydrochloric acid (40 mL) and ethyl acetate (20 mL) were added to the reaction mixture, and the mixture was stirred for 15 minutes. Insoluble material in the mixture was removed by filtration, and the organic layer of the filtrate was separated. The aqueous layer of filtrate was extracted with ethyl acetate. The organic layers were combined, and the combined organic layer washed with 2 mol/L hydrochloric acid, water and brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane) to give the title compound (0.55 g).

reactant | sodium hydride | 1.11 g | [H-].[Na+]
reactant | methyl thioglycolate | 1.53 mL | C(CS)(=O)OC | C3H6O2S
reactant | 2-bromo-6-fluorobenzaldehyde | 3.43 g | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
product | 2-methoxycarbonyl-4-bromobenzo-[b]thiophene | 1.52 g | COC(=O)C1=CC2=C(S1)C=CC=C2Br | C10H7BrO2S
